US08633173B2
[4-(4-Methyl-piperazin-1-yl)-phenyl]-[8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine
[4-(4-Methyl-piperazin-1-yl)-phenyl]-[8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine was prepared from 8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (75.0 mg, 0.270 mmol) and 1-(4-bromo-phenyl)-4-methyl-piperazine (80.0 mg, 0.314 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (30.0 mg, 0.0549 mmol) as the ligand in a manner analogous to Step 2d. The title compound was isolated as a yellow solid (0.033 g, 27%). MP=214-216° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.44 (d, J=6.5 Hz, 1H), 8.12 (dm J=8.7 Hz, 2H), 7.77 (d, J=7.4 Hz, 2H), 7.59 (d, J=7.4 Hz, 1H), 7.49 (d, J=7.6 Hz, 2H), 7.00-6.93 (m, 3H), 6.66 (s, 1H), 3.20-3.15 (m, 4H), 2.62-2.57 (m, 4H), 2.36 (s, 3H). MS=453 (MH)+.

reactant | 8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.270 mmol, 75.0 mg | FC(C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N)(F)F | C13H9F3N4
reactant | 1-(4-bromo-phenyl)-4-methyl-piperazine | 0.314 mmol, 80.0 mg | BrC1=CC=C(C=C1)N1CCN(CC1)C | C11H15BrN2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0549 mmol, 30.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [4-(4-Methyl-piperazin-1-yl)-phenyl]-[8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)C(F)(F)F)=N1 | C24H23F3N6
